US05157026
5-Carboxy-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine
To neat 5-Cyano-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine (20 mg) at RT was added H2SO4 (0.5 mL) and water (0.25 mL). The mixture was heated to 100° C. for 3 hours, cooled to 0° C., then made basic by the addition of NH4OH. After adding methanol (5 mL), the mixture was filtered, concentrated, and purified (SiO2, 60:40:1 CH2Cl2 --CH3OH--NH4OH) to give 17 mg of the title compound as a solid.

reactant | 5-Cyano-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 20 mg | C(#N)C1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C24H20N8
reactant | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
reactant | water | 0.25 mL | O | H2O
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 5 mL | CO | CH4O
product | 5-Carboxy-2-ethyl-7-methyl-3-(2'-(tetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | 17 mg | C(=O)(O)C1=CC(=C2C(=N1)N(C(=N2)CC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C | C24H21N7O2
